US07915424B2
3-(3-Bromo-4-fluorophenylethynyl)-5-methoxypyridine
Add bis(triphenylphosphine)palladium (II) dichloride (93 mg, 0.13 mmol), copper (I) iodide (50 mg, 0.26 mmol), and 3-ethynyl-5-methoxypyridine, (prepared as described in PREPARATION 10), (350 mg, 2.6 mmol) to a solution of 2-bromo-1-fluoro-4-iodobenzene, (prepared as described in PREPARATION 43), (1.03 g, 3.4 mmol) in triethylamine (4.0 mL, 39.5 mmol). Stir at room temperature for 20 h then concentrate. Purify by silica gel chromatography, eluting with 100:0 to 80:20 dichloromethane:ethyl acetate, followed by a second silica gel chromatography, eluting with 75:25 to 60:40 hexanes:ethyl acetate, to give the title compound as a white solid (750 mg, 93%).

reactant | 3-ethynyl-5-methoxypyridine | 2.6 mmol, 350 mg | C(#C)C=1C=NC=C(C1)OC | C8H7NO
reactant | 2-bromo-1-fluoro-4-iodobenzene | 3.4 mmol, 1.03 g | BrC1=C(C=CC(=C1)I)F | C6H3BrFI
reactant | triethylamine | 39.5 mmol, 4.0 mL | C(C)N(CC)CC | C6H15N
catalyst | bis(triphenylphosphine)palladium | 0.13 mmol, 93 mg | C1([P]([Pd][P](C2=CC=CC=C2)(C3=CC=CC=C3)C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)=CC=CC=C1
catalyst | copper (I) iodide | 0.26 mmol, 50 mg | [Cu]I
product | 3-(3-Bromo-4-fluorophenylethynyl)-5-methoxypyridine | 750 mg, 93% | BrC=1C=C(C=CC1F)C#CC=1C=NC=C(C1)OC | C14H9BrFNO
